US05045547
2-(4-Aminophenoxymethyl)quinoline
117.8 g (0.42 mol) of 2-(4-nitrophenoxymethyl)quinoline were dissolved in 1 l of methanol/tetrahydrofuran (1:1). About 5 g of Raney nickel were then added and the mixture was warmed to 35° C. 63.1 g (1.26 mol) of hydrazine hydrate ×H2O were then added dropwise and the mixture was stirred overnight. The residue was filtered off, the solution was concentrated in vacuo and the residue was taken up with methylene chloride. The mixture was then washed with water and conc. hydrochloric acid was added to the organic phase. The precipitate deposited was filtered off, washed with 2 N hydrochloric acid, dissolved in water and rendered alkaline with 20% strength NaOH. The residue was dried in vacuo.

reactant | 2-(4-nitrophenoxymethyl)quinoline | 0.42 mol, 117.8 g | [N+](=O)([O-])C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H12N2O3
reactant | hydrazine hydrate | 1.26 mol, 63.1 g | O.NN
reactant | H2O | O | H2O
solvent | methanol tetrahydrofuran | 1 l | CO.O1CCCC1
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 2-(4-Aminophenoxymethyl)quinoline | NC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H14N2O
